US08604069B2
(A-75-13) tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-{5-[3-(2-ethylbutyl)cyclobutyl]-4-iodoisoxazol-3-yl}valerate
tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-[3-(2-ethylbutyl)cyclobutyl]-4-methoxyimino-5-hexynoate (7.50 g) and acetonitrile (60 mL) were mixed. To the mixture was added iodine (7.54 g) was added at ice temperature. The mixture was stirred for 4.5 hr, and then to the mixture were added aqueous 5 w/v % sodium thiosulfate (50 mL), ethyl acetate (200 mL) and aqueous 5 w/v % sodium thiosulfate (75 mL, 150 mL) at ice temperature. The aqueous layer was removed, and the organic layer was washed with saturated aqueous sodium bicarbonate/brine=1/1 (100 mL) and brine (50 mL), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified twice by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/50→1/40→1/20) to give the title compound (7.1 g).

reactant | tert-Butyl 3-[2-(tert-butyldiphenylsilanyloxy)ethyl]-6-[3-(2-ethylbutyl)cyclobutyl]-4-methoxyimino-5-hexynoate | 7.50 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C(C#CC1CC(C1)CC(CC)CC)=NOC | C39H57NO4Si
reactant | acetonitrile | 60 mL | C(C)#N | C2H3N
reactant | iodine | 7.54 g | II | I2
reactant | sodium thiosulfate | 50 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium thiosulfate | 75 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-{5-[3-(2-ethylbutyl)cyclobutyl]-4-iodoisoxazol-3-yl}valerate | 7.1 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C1=NOC(=C1I)C1CC(C1)CC(CC)CC | C38H54INO4Si
